US08389511B2
1-tert-Butyl 3-ethyl 4-[3-(benzyloxy)phenyl]-5,6-dihydropyridin-1,3(2H)-dicarboxylate
Using 1-tert-butyl 3-ethyl 4-{[(trifluoromethyl)sulfonyl]oxy}-5,6-dihydropyridin-1,3(2H)-dicarboxylate and 3-benzyloxyphenylboronic acid, the title compound was obtained in a similar manner to Reference Example 550.

reactant | 1-tert-butyl 3-ethyl 4-{[(trifluoromethyl)sulfonyl]oxy}-5,6-dihydropyridin-1,3(2H)-dicarboxylate | FC(S(=O)(=O)OC1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OCC)(F)F | C14H20F3NO7S
reactant | 3-benzyloxyphenylboronic acid | C(C1=CC=CC=C1)OC=1C=C(C=CC1)B(O)O | C13H13BO3
product | 1-tert-Butyl 3-ethyl 4-[3-(benzyloxy)phenyl]-5,6-dihydropyridin-1,3(2H)-dicarboxylate | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C26H31NO5
